US09315475B2
Step 1. Preparation of tert-Butyl(2R,5R)-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}-5-[2-(2-nitrophenyl)vinyl]morpholine-4-carboxylate
(2-Nitrobenzyl)triphenylphosphonium bromide monohydrate (1.4 equiv), potassium carbonate (2.0 equiv) and 18-crown-6 (0.1 equiv) were combined in DME (0.16 M vs aldehyde). The mixture was stirred at room temperature for 5 min. tert-Butyl(2R,5S)-5-formyl-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate (1.0 equiv) was dissolved in DME (0.16 M) and added to the reaction mixture. The reaction mixture was stirred at room temperature for 18 h, filtered over solka floc and concentrated. The crude product was purified using automated silica-gel flash chromatography using a solvent gradient of 0% to 100% of ethyl acetate and hexanes.

reactant | (2-Nitrobenzyl)triphenylphosphonium bromide monohydrate | 1.4 equiv | O.[Br-].[N+](=O)([O-])C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | potassium carbonate | 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.1 equiv | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | tert-Butyl(2R,5S)-5-formyl-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}morpholine-4-carboxylate | 1.0 equiv | C(=O)[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@H](C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC)=O | C35H41N3O7
solvent | DME | 0.16 M | COCCOC | C4H10O2
solvent | DME | 0.16 M | COCCOC | C4H10O2
product | tert-Butyl(2R,5R)-2-{2-[2-({(2S)-2-[(methoxycarbonyl)amino]-3,3-diphenylpropanoyl}amino)phenyl]ethyl}-5-[2-(2-nitrophenyl)vinyl]morpholine-4-carboxylate | COC(=O)N[C@H](C(=O)NC1=C(C=CC=C1)CC[C@@H]1CN([C@@H](CO1)C=CC1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C(C1=CC=CC=C1)C1=CC=CC=C1 | C42H46N4O8
